US08471005B2
[7-(1-Methanesulfonyl-1H-pyrazol-4-yl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-[3-(4-methyl-piperazin-1-yl)-phenyl]-amine
To a solution of [3-(4-Methyl-piperazin-1-yl)-phenyl]-[7-(1H-pyrazol-4-yl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-amine (1.00E2 mg, 0.267 mmol) and N,N-Diisopropylethylamine (48.8 uL, 0.280 mmol) in N,N-Dimethylformamide (12.1 mL, 156 mmol) was added Methanesulfonyl chloride (21.7 uL, 0.280 mmol). The reaction was stirred at rt overnight. LCMS 453.0 (M+H), HPLC rt=2.180 min, 97% purity. The reaction mixture was concentrated to remove DMF, diluted with CH2Cl2, and washed with sat'd aqueous NaHCO3. The organic layer was dried over MgSO4, filtered, and concentrated. Product was isolated as a yellow solid (29 mg, 24%). 1H NMR (400 MHz, (D3C)2SO, δ, ppm): 9.30 (s, 1H), 9.03 (s, 1H0, 8.97 (s, 1H), 8.71 (s, 1H), 7.39 (d, J=8.3 Hz, 1H), 7.29 (d, J=4.6 Hz, 1H0, 7.22 (dd, J=8.3 Hz, 8.3 Hz, 1H), 7.05 (bm, 1H), 6.95 (d, J=4.6 Hz, 1H), 6.63 (dd, J=8.4 Hz, 1.4 Hz, 1H0, 3.62 (s, 3H), 3.12-3.10 (m, 4H), 2.45-2.43 (m, 4H), 2.21 (s, 3H).

reactant | [3-(4-Methyl-piperazin-1-yl)-phenyl]-[7-(1H-pyrazol-4-yl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-amine | 0.267 mmol, 1.00E2 mg | CN1CCN(CC1)C=1C=C(C=CC1)NC1=NN2C(C=N1)=CC=C2C=2C=NNC2 | C20H22N8
reactant | N,N-Diisopropylethylamine | 0.280 mmol, 48.8 uL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | N,N-Dimethylformamide | 156 mmol, 12.1 mL | CN(C=O)C | C3H7NO
reactant | Methanesulfonyl chloride | 0.280 mmol, 21.7 uL | CS(=O)(=O)Cl | CH3ClO2S
product | [7-(1-Methanesulfonyl-1H-pyrazol-4-yl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-[3-(4-methyl-piperazin-1-yl)-phenyl]-amine | 29 mg, 24% | CS(=O)(=O)N1N=CC(=C1)C1=CC=C2C=NC(=NN21)NC2=CC(=CC=C2)N2CCN(CC2)C | C21H24N8O2S
